US08975254B2
a) 5-(3,4-dichlorophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole
1-(Tetrahydro-2H-pyran-2-yl)-1H-pyrazole-5-boronic acid pinacol ester (6.16 g, 22.13 mmol) and 4-Bromo-1,2-dichloro-benzene (2.84 ml, 22.13 mmol) were dissolved in DMF (20 ml) under nitrogen atmosphere. Bis(triphenylphosphine)-palladium(II) chloride (0.777 g, 1.107 mmol) was added along with sodium carbonate (22.13 ml, 44.3 mmol) and the resulting mixture was stirred at 50° C. for 3 h. DMF was evaporated, water was added (15 ml) and extracted with ethyl acetate. Combined organic phases were dried with Na2SO4, filtered and dried with vacuum at 40° C. The product was purified by recrystallization from diethyl ether and diethyl ether/heptane, respectively. 1H-NMR (400 MHz; DMSO-d6): δ 1.50-1.69 (m, 3H), 1.77-1.84 (m, 1H), 1.91-2.00 (m, 1H), 2.31-2.44 (m, 1H), 3.54-3.62 (m, 1H), 3.96-4.02 (m, 1H), 5.23 (dd, 1H), 6.89 (d, 1H), 7.53 (dd, 1H), 7.60 (d, 1H), 7.77-7.82 (m, 2H).

reactant | 1-(Tetrahydro-2H-pyran-2-yl)-1H-pyrazole-5-boronic acid pinacol ester | 22.13 mmol, 6.16 g | O1C(CCCC1)N1N=CC=C1B1OC(C)(C)C(C)(C)O1 | C14H23BN2O3
reactant | 4-Bromo-1,2-dichloro-benzene | 22.13 mmol, 2.84 ml | BrC1=CC(=C(C=C1)Cl)Cl | C6H3BrCl2
reactant | sodium carbonate | 44.3 mmol, 22.13 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
catalyst | Bis(triphenylphosphine)-palladium(II) chloride | 1.107 mmol, 0.777 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-(3,4-dichlorophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole | ClC=1C=C(C=CC1Cl)C1=CC=NN1C1OCCCC1 | C14H14Cl2N2O
